US06071903
2-[(2-Aminobenzyl)-(4-methoxybenzenesulfonyl)amino]acetic Acid
To a solution of 5.14 g (14.1 mmol) of methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]acetate in 50 ml of methanol-tetrahydrofuran (1:1) was added 2.86 ml of 10 N NaOH and the mixture refluxed for 2 hours. The solvent was removed under vacuum and the residue partitioned between water and ether. The water layer was separated and acidified with 2 N citric acid. The solid was filtered, washed with H2O and dried in a vacuum oven at room temperature to give 4.45 g (91%) of crystals, m.p. 145°-147° C. Anal. for C16H18N2O5S: Calc'd: C,54.9; H,5.2; N,8.0; Found: C,55.1; H,5.2; N,7.9.

reactant | methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]acetate | 14.1 mmol, 5.14 g | NC1=C(CN(CC(=O)OC)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C17H20N2O5S
reactant | NaOH | 10 N, 2.86 ml | [OH-].[Na+]
solvent | methanol tetrahydrofuran | 50 ml | CO.O1CCCC1
product | 2-[(2-Aminobenzyl)-(4-methoxybenzenesulfonyl)amino]acetic Acid | 4.45 g, 91% | NC1=C(CN(CC(=O)O)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C16H18N2O5S
